US08809317B2
4.5.20.2 Synthesis of tert-Butyl 3,7-dibromo-10H-phenothiazine-10-carboxylate
A mixture of the 3,7-dibromophenothiazine (0.25 g, 0.70 mmol), Boc anhydride (0.20 g, 0.96 mmol), DMAP (8 g, 0.07 mmol) in CH3CN (5 millilter) was stirred at RT. The color of the solution became light yellow and the starting material was consumed. After one hour, a white precipitate formed which was filtered and dried under vacuum to give a quantitative yield.

reactant | 3,7-dibromophenothiazine | 0.70 mmol, 0.25 g | BrC=1C=CC=2NC3=CC=C(C=C3SC2C1)Br | C12H7Br2NS
reactant | Boc anhydride | 0.96 mmol, 0.20 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.07 mmol, 8 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | CC#N | C2H3N
product | tert-Butyl 3,7-dibromo-10H-phenothiazine-10-carboxylate | quantitative yield | BrC=1C=CC=2N(C3=CC=C(C=C3SC2C1)Br)C(=O)OC(C)(C)C | C17H15Br2NO2S
